OpenCircuit factory test: MMBT3906 saturation
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.onsemi.com/pdf/datasheet/mmbt3906lt1-d.pdf
* Revision: October 2024 Rev. 14
* Fit: native ngspice-46 in scipy.optimize.least_squares, diff_step=1e-4
.model OC_ONSEMI_MMBT3906 PNP(IS=2.5335894208e-14 NF=1.0000000000e0 BF=2.9239992598e2 IKF=3.4574354120e-2 ISE=9.4450543950e-14 NE=1.3675692156e0 VAF=1.0000000000e2 BR=4.0000000000e0 RB=1.0231282464e0 RE=2.7488050976e-1 RC=5.5376776946e0 CJE=1.1836139835e-11 VJE=7.5000000000e-1 MJE=3.3000000000e-1 CJC=8.8131809209e-12 VJC=7.5000000000e-1 MJC=3.3000000000e-1 XCJC=1.0000000000e0 TF=5.3233921457e-10 TR=0 FC=0.5 EG=1.11 XTI=3 TNOM=27)

.temp 25
ICS1 0 cs1 DC -1.0000000000e-2
IBS1 0 bs1 DC -1.0000000000e-3
QS1 cs1 bs1 0 OC_ONSEMI_MMBT3906
ICS2 0 cs2 DC -5.0000000000e-2
IBS2 0 bs2 DC -5.0000000000e-3
QS2 cs2 bs2 0 OC_ONSEMI_MMBT3906
.op
.end
